US06734179B2
A stirred suspension of 200 mg (0.45 mmol) 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide, 0.39 ml (4.46 mmol) morpholine and 291 mg (0.89 mmol) cesium carbonate in 5 ml N-methylpyrrolidone in a thick-walled glass pressure tube fitted with a teflon cap was heated at 140° C. for 24 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with ethyl acetate, and the combined organic phases were washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane) followed by trituration in ether and hexane afforded 90 mg (44%) N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-morpholin-4-yl-isonicotinamide as an off-white crystalline solid. ES-MS m/e (%): 477 (M+Na+, 13),455 (M+H+, 100).

reactant | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | 0.45 mmol, 200 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C19H18BrN3O3S
reactant | morpholine | 4.46 mmol, 0.39 ml | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 0.89 mmol, 291 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-morpholin-4-yl-isonicotinamide | 90 mg, 44% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CCOCC2)=O)C2CCOCC2 | C23H26N4O4S
